US04438130
Step A. 8-[3-(1-ethoxyethoxy)propyl]-1,4-dioxaspiro[4.5]decan-8-ol
To the above lithiated intermediate there was added dropwise a solution of 85.8 g (0.55 mol) of 8-oxo-1,4-dioxaspiro[4.5]decane in one liter of dry diethyl ether (fresh cans, as above) over a period of about 2.5 hr. The resulting reaction mixture was allowed to warm slowly to room temperature and then poured into two liters of ice cold half saturated ammonium chloride in water solution. The phases were separated and the aqueous phase was extracted with one liter of diethyl ether. The ether layers were combined and washed with brine solution, dried over sodium sulfate, and then the ether solvent was removed under reduced pressure to leave, after drying to 45° C. (0.25 mm.Hg) for 14 hours, 142.15 g of a light yellow oil, the above named decan-8-ol acetal intermediate, which was of sufficient purity to use in the next step. A small sample of the named oil was distilled at reduced pressure to obtain a purer material bp 135°-140° C. (0.01 mmHg). The nuclear magnetic resonance spectrum (using CDCl3 solvent), was consistent with the above named decan-8-ol acetal compound.

reactant | 8-oxo-1,4-dioxaspiro[4.5]decane | 0.55 mol, 85.8 g | O=C1CCC2(OCCO2)CC1 | C8H12O3
reactant | diethyl ether | one liter | C(C)OCC | C4H10O
solvent | water | O | H2O
product | 8-[3-(1-ethoxyethoxy)propyl]-1,4-dioxaspiro[4.5]decan-8-ol | C(C)OC(C)OCCCC1(CCC2(OCCO2)CC1)O | C15H28O5
